US05484774
N-[(R)-1-(2-Benzoxazolyl)thio-2-propyl]-2-chloroadenosine
The title compound was prepared essentially according to method A as described above in Example 1 by reacting 2-[(R)-2-amino-1-propylthio]benzoxazole hydrochloride [prepared by alkylation of 2-mercaptobenzoxazole (3.5 g, 23 mmol) using methanesulphonic acid, 2-[(R)-N-tert-butyloxycarbonylamino]-1-propyl ester (7.2 g, 30 mmol) followed by acidic hydrolysis] (1.7 g, 6 mmol) with 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (2.7 g, 6.0 mmol), followed by deacylation of the purified product using sodium methoxide in methanol. This provided the title N-[(R)-1-(2-benzoxazolyl)thio2-propyl]-2-chloroadenosine (0.37 g, 28%) as a foam after column chromatography. 1H NMR (DMSO-d6) δ 1.38 (3H, d, --CHCH3), 3.40-3.75 (4H, m, H-5'a and H-5'b and --CH2 --), 3.94 (1H, q, H-4), 4.12 (1H, q, H-3'), 4.52 (1H, m, H-2'), 5.06 (1H, t, 5'-OH), 5.22, 5.49 (2H, 2d, 2'- and 3'-OH), 5.82 (1H, d, H-1'), 7.26-7.35 (2H, m, Ar-H), 7.53-7.64 (2H, m, Ar-H), 8.39 (1H, s, H-8), 8.48 (1H, d, --NH).

reactant | 2-[(R)-2-amino-1-propylthio]benzoxazole hydrochloride | 23 mmol, 3.5 g | Cl.N[C@@H](CSC=1OC2=C(N1)C=CC=C2)C
reactant | 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 6.0 mmol, 2.7 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C16H16Cl2N4O7
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | N-[(R)-1-(2-benzoxazolyl)thio2-propyl]-2-chloroadenosine | 0.37 g, 28% | O1C(=NC2=C1C=CC=C2)SC[C@@H](C)NC=2C=1N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C1N=C(N2)Cl | C20H21ClN6O5S
